US07576080B2
A mixture of N-(5-phenylthieno[2,3-d]pyrimidin-4-yl)ethane-1,2-diamine (Maybridge) (30 mg, 0.11 mmol), 3-nitrobenzaldehyde (18 mg, 0.12 mmol), acetic acid (6 mg, 0.10 mmol) and ethanol (3.0 mL) was stirred at room temperature for 30 minutes, followed by the addition of 7.6 mg (0.20 mmol) of sodium borohydride (7.6 mg, 0.20 mmol). The reaction was stirred for an additional 30 minutes and then water (0.2 mL) and ethyl acetate (20 mL) were added. The mixture was washed with aqueous sodium bicarbonate solution (2×20 mL) and the organic layer was separated, concentrated, and purified by column chromatography over silica gel using a gradient elution from 2.5% to 5% methanol in dichloromethane as eluant to give 34.2 mg (77%) N-(3-nitrobenzyl)-N′-(5-phenylthieno[2,3-d]pyrimidin-4-yl)ethane-1,2-diamine as a colorless gum. MS [M+H] 406.2, 1H NMR (CDCl3) δ (ppm) 8.49 (s, 1H), 8.11 (d, J=6.6 Hz, 1H), 8.06 (s, 1H), 7.50-7.32 (m, 7H), 7.08 (s, 1H), 5.48 (b, 1H), 3.75 (s, 2H), 3.55 (m, 2H), 2.75 (m, 2H).

reactant | N-(5-phenylthieno[2,3-d]pyrimidin-4-yl)ethane-1,2-diamine | 0.11 mmol, 30 mg | C1(=CC=CC=C1)C1=CSC=2N=CN=C(C21)NCCN | C14H14N4S
reactant | 3-nitrobenzaldehyde | 0.12 mmol, 18 mg | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | acetic acid | 0.10 mmol, 6 mg | C(C)(=O)O | C2H4O2
reactant | sodium borohydride | 0.20 mmol, 7.6 mg | [BH4-].[Na+]
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 0.2 mL | O | H2O
solvent | ethanol | 3.0 mL | C(C)O | C2H6O
product | N-(3-nitrobenzyl)-N′-(5-phenylthieno[2,3-d]pyrimidin-4-yl)ethane-1,2-diamine | 34.2 mg, 77% | [N+](=O)([O-])C=1C=C(CNCCNC=2C3=C(N=CN2)SC=C3C3=CC=CC=C3)C=CC1 | C21H19N5O2S
